US07384934B2
(S)-2-(2-Methoxy-ethyl)-piperazine
Dissolve (S)-1,4-dibenzyl-2-(2-methoxy-ethyl)-piperazine (2.0 g, 6.2 mmol) in ethanol (15 mL) in a suitable hydrogenation vessel. Add palladium hydroxide (Pearlman's catalyst, 400 mg), purge vessel with nitrogen, then pressure to 60 psi. Heat to 50° C. and stir vigorously for 18-24 hours. Allow the mixture to cool to ambient temperature. Filter off the catalyst and rinse with ethanol (5 mL). Concentrate in vacuo using a 35° C. bath to afford the title compound (0.81 g, 91.1%). 1H NMR (500 MHz, DMSO-d6) δ 1.41 (m, 2H), 2.12 (t, 1H), 2.43 (td, 1H), 2.53 (m, 2H, 1H), 2.63 (d, 1H), 2.72 (m, 2H), 3.19. (s, 3H), 3.34 (m, 2H).

reactant | (S)-1,4-dibenzyl-2-(2-methoxy-ethyl)-piperazine | 6.2 mmol, 2.0 g | C(C1=CC=CC=C1)N1[C@H](CN(CC1)CC1=CC=CC=C1)CCOC | C21H28N2O
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | (S)-2-(2-Methoxy-ethyl)-piperazine | 0.81 g, 91.1% | COCC[C@@H]1NCCNC1 | C7H16N2O
